US06166006
In THF (250 ml) was dissolved 4-nitrobenzyl bromide (25.0 g), and to the mixture was added pyrrolidine (24.1 ml) at 0° C. The reaction mixture was stirred at room temperature for 60 hours. To the mixture was added water (500 ml), and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethyl acetate) to give 1-(4-nitrobenzyl)pyrrolidine (23.5 g) as orange oil.

reactant | 4-nitrobenzyl bromide | 25.0 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | pyrrolidine | 24.1 ml | N1CCCC1 | C4H9N
reactant | water | 500 ml | O | H2O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 1-(4-nitrobenzyl)pyrrolidine | 23.5 g | [N+](=O)([O-])C1=CC=C(CN2CCCC2)C=C1 | C11H14N2O2
